US07781478B2
1-Acetyl-6-nitroindoline (3.8 g, 18.3 mmol) is suspended in EtOAc (200 mL). Pd/C (650 mg, 10%) is added, and the mixture is hydrogenated at 40-55 p.si.i. for 2 hours. The mixture is then filtered through celite. The filtrate is concentrated, and the residue is triturated with ether to yield 1-acetyl-6-aminoindoline (3.18 g, 99%) as an orange solid.

reactant | 1-Acetyl-6-nitroindoline | 18.3 mmol, 3.8 g | C(C)(=O)N1CCC2=CC=C(C=C12)[N+](=O)[O-] | C10H10N2O3
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 650 mg | [Pd] | Pd
product | 1-acetyl-6-aminoindoline | 3.18 g, 99% | C(C)(=O)N1CCC2=CC=C(C=C12)N | C10H12N2O
